data/mechanisms/records/IMS8-EQ8.51.json
{"mechanism_id": "IMS8-EQ8.51", "species": [{"species_id": "cyclic_onium_ee_ion", "mapped_smiles": "[CH3:3][C:2]1=[O+:1][CH2:7][CH2:6][CH2:5][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acylium_ion", "mapped_smiles": "[CH3:3][C:2]#[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cycloalkane_neutral", "mapped_smiles": "[CH2:7]1[CH2:6][CH2:5][CH2:4]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_onium_ee_ion"]}, {"state_id": "state_products", "species_ids": ["acylium_ion", "cycloalkane_neutral"]}], "steps": [{"step_id": "step_double_inductive_ring_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "bond", "atom_maps": [4, 7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_double_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_inductive_ring_cleavage", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.51", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.7, "curator_note": "GENERIC SCHEME, printed under the heading 'EE+'. The book draws a ring of unspecified size that contains the heteroatom Y at the top; Y carries the + charge, is single-bonded to one ring carbon and DOUBLE-bonded to the neighbouring ring carbon, which bears the substituent R (a cyclic onium / oxocarbenium ion). The reaction arrow is labelled 'i, i' = two successive charge-site (inductive) cleavages. Products: the linear onium ion R-C(triple bond)Y+ (an acylium for Y=O) plus a CYCLIC neutral (drawn as the closed 'half-moon' D-shape, i.e. a carbocycle, not a chain). INSTANTIATION (convention F/B): Y=O, R=CH3, ring size 6 (the same hexagon the book draws explicitly one line lower in Eq 8.52), giving the 2-methyl-oxocarbenium of tetrahydropyran, C6H11O+ m/z 99.0804; the charge is localised on the ring oxygen in the mapped SMILES exactly where the book prints the '+'. Products for that instantiation: acetylium CH3-C#O+ (m/z 43.0178) + cyclobutane. Book draws 2 arc(s); moves <1,2> are both drawn full-headed (two-electron) arcs and no implicit move is needed - this EE+ path is entirely heterolytic, so the electron bookkeeping closes with the two drawn arrows alone. Arc 1 (left) leaves the Y-C sigma bond and points into the ring cavity: that pair becomes the new C-C bond that closes the neutral carbocycle (maps 4-7). Arc 2 (right) leaves the ring C-C bond next to the substituted carbon and points up at the Y=C bond, raising it to Y#C+ (maps 1-2)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 99.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acylium", "species_id": "acylium_ion", "step_id": "step_double_inductive_ring_cleavage", "observed_mz": 43.0178, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
